US08492582B2
4-(Dimethylamino)piperidine dihydrochloride (0.11 g), cesium carbonate (0.44 g), tris(dibenzylideneacetone)dipalladium(0) (2.5 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (6.4 mg), and palladium(II) acetate (1.2 mg) were added to a toluene (2.3 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate (0.15 g), followed by heating to reflux under a nitrogen atmosphere for 3 hours. The reaction mixture was cooled to room temperature, and cesium carbonate (0.13 g), tris(dibenzylideneacetone)dipalladium(0) (2.5 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (6.4 mg), and palladium(II) acetate (1.2 mg) were added to the reaction mixture, followed by heating to reflux under a nitrogen atmosphere for 7 hours. The reaction mixture was cooled to room temperature, and tripotassium phosphate (0.29 g), tris(dibenzylideneacetone)dipalladium(0) (2.5 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (6.4 mg), and palladium(II) acetate (1.2 mg) were added to the reaction mixture, followed by heating to reflux under a nitrogen atmosphere for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and water and chloroform were added thereto. The insoluble substance was removed by filtration. The organic layer was separated and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-90% chloroform/methanol] to obtain 0.13 g of tert-butyl 2-(2-(benzyloxy)-5-(4-(dimethylamino)piperidin-1-yl)benzamido)-4-phenylbenzoate.

reactant | 4-(Dimethylamino)piperidine dihydrochloride | 0.11 g | Cl.Cl.CN(C1CCNCC1)C
reactant | cesium carbonate | 0.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate | 0.15 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C31H28BrNO4
reactant | cesium carbonate | 0.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tripotassium phosphate | 0.29 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 6.4 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 6.4 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 6.4 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | toluene | 2.3 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(2-(benzyloxy)-5-(4-(dimethylamino)piperidin-1-yl)benzamido)-4-phenylbenzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCC(CC1)N(C)C | C38H43N3O4
